US07777047B2
N-[2-(benzylthio)-2-methyl-3-oxopropyl]-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of N-[2-(benzylthio)-3,3-dimethoxy-2-methylpropyl]-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (1.95 g), water (0.16 mL) and acetone (30 mL) was added Amberlyst (registered trade mark) 15 ion exchange resin (500 mg) at room temperature, and the mixture was added overnight at room temperature. The insoluble substance was filtered off. The filtrate was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography to give the title compound (1.56 g, yield 87%) as a colorless amorphous solid from a fraction eluted with ethyl acetate-hexane (9:1).

reactant | N-[2-(benzylthio)-3,3-dimethoxy-2-methylpropyl]-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.95 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)(C(OC)OC)C | C31H38N4O7S2
reactant | water | 0.16 mL | O | H2O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-[2-(benzylthio)-2-methyl-3-oxopropyl]-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.56 g, yield 87% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)(C=O)C | C29H32N4O6S2
